### PR TITLE
an enumeration of a finite set must repeat itself

### PR DESCRIPTION
**Pull request by mikeshulman**

### CODE REVIEW

File: theories/Spaces/Nat.v [hunk 1]
```diff
@@ -111,3 +111,10 @@ Proof.
   apply path_nat.
   apply leq_antisymd; assumption.
 Defined.
+
+Definition not_nltn n : ~ (n < n).
```
Comment (mikeshulman) [inline theories/Spaces/Nat.v]: If anyone wants to tell me the name and proof of this from ssreflect, I'm happy to use that.

Comment (JasonGross) [inline theories/Spaces/Nat.v]: It's called `Ssreflect.ssrnat.ltnn`:
```coq
Lemma leqnn n : n <= n.                 Proof. by elim: n. Qed.

(* ... *)

Lemma leqNgt m n : (m <= n) = ~~ (n < m).
Proof. by elim: m n => [|m IHm] [|n] //; exact: IHm n. Qed.

Lemma ltnNge m n : (m < n) = ~~ (n <= m).
Proof. by rewrite leqNgt. Qed.

Lemma ltnn n : n < n = false.
Proof. by rewrite ltnNge leqnn. Qed.
```

Comment (mikeshulman) [inline theories/Spaces/Nat.v]: Hmm, one of those proofs uses ssreflect tactics, so someone else would have to translate them for me.

Comment (JasonGross) [inline theories/Spaces/Nat.v]: The proof of `leqNgt` says: "induct on `m` and destruct `n`; one case is solved by the induction hypothesis applied to `n`; the rest is trivial"

Comment (mikeshulman) [inline theories/Spaces/Nat.v]: So how ought these statements to be modified given that we are using decidable hprops instead of booleans?  Just turn the `=`s into `<->`s?
